US08404859B2
Preparation of 5-[3-(tert-Butyl-dimethyl-silanyloxy)-benzylcarbamoyl]-3-chloro-thiophene-2-carboxylic acid methyl ester
To a solution of 3-Chloro-thiophene-2,5-dicarboxylic acid 2-methyl ester (500 mg, 2.27 mmol) in anhydrous DMF (10 mL) was added triethylamine (1.0 mL, 6.81 mmol), HBTU (1.03 g, 2.72 mmol), HOBT (370 mg, 2.72 mmol), and 3-(tert-Butyl-dimethyl-silanyloxy)-benzylamine (650 mg, 2.72 mmol). The mixture was stirred at room temperature 15 h, then quenched by pouring into EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by flash chromatography with 0-30% EtOAc in hexane to afford the desired product (0.26 g, 26% yield).

reactant | 3-Chloro-thiophene-2,5-dicarboxylic acid 2-methyl ester | 2.27 mmol, 500 mg | COC(=O)C=1SC(=CC1Cl)C(=O)O | C7H5ClO4S
reactant | triethylamine | 6.81 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 2.72 mmol, 1.03 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 2.72 mmol, 370 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-(tert-Butyl-dimethyl-silanyloxy)-benzylamine | 2.72 mmol, 650 mg | C(C)(C)(C)[Si](OC=1C=C(CN)C=CC1)(C)C | C13H23NOSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-[3-(tert-Butyl-dimethyl-silanyloxy)-benzylcarbamoyl]-3-chloro-thiophene-2-carboxylic acid methyl ester | 0.26 g, 26% yield | COC(=O)C=1SC(=CC1Cl)C(NCC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C20H26ClNO4SSi
